US07956069B2
The preparation of Ethyl 3-[4-[(3aR,7aR)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]pyrrolidine-1-carboxylate
To a stirred solution of (3aR,7aR)-1-piperidin-4-yloctahydro-2H-benzimidazol-2-one TFA salt (400 mg, 1.24 mmol) in dichloromethane (10 mL) was added acetic acid (0.35 mL 6.12 mmol)-ethyl 3-oxopyrrolidine-1-carboxylate (0.35 mL 2.23 mmol). Sodium triacetoxyoborohydride (0.8 g, 3.77 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was quenched with ice water, then diluted with dichloromethane (200 mL) and was washed successively with 1N NaOH (10 mL), water (10 mL) and brine. The solvent was removed under reduced pressure and the residue was purified by high pH prep LCMS (acetonitrile/water) to provide the mixture of two diastereoisomers (260 mg 58%).

reactant | (3aR,7aR)-1-piperidin-4-yloctahydro-2H-benzimidazol-2-one TFA salt | 1.24 mmol, 400 mg | OC(=O)C(F)(F)F.N1CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O
reactant | acetic acid | 6.12 mmol, 0.35 mL | C(C)(=O)O | C2H4O2
reactant | ethyl 3-oxopyrrolidine-1-carboxylate | 2.23 mmol, 0.35 mL | O=C1CN(CC1)C(=O)OCC | C7H11NO3
reactant | Sodium | [Na] | Na
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Ethyl 3-[4-[(3aR,7aR)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]pyrrolidine-1-carboxylate | O=C1N[C@H]2[C@H](N1C1CCN(CC1)C1CN(CC1)C(=O)OCC)CCCC2 | C19H32N4O3
